US20010027196A1
2-Amino-4-(2-benzenesulfonyl-ethylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, N-(2-amino-ethyl)-benzenesulfonamide hydrochloride and DBU in DME. ES-MS m/e (%): 370 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N-(2-amino-ethyl)-benzenesulfonamide hydrochloride | Cl.NCCNS(=O)(=O)C1=CC=CC=C1
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-benzenesulfonyl-ethylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCS(=O)(=O)C1=CC=CC=C1)C#N)C=1OC=CC1 | C17H15N5O3S
